US08278302B2
3-({1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carbonyl}-amino)-5-(1-methyl-1H-tetrazol-5-yl)-benzoic acid methyl ester
To a solution of 1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carboxylic acid [3-bromo-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-amide (400 mg) in MeOH (20 ml) was added triethylamine (140 μl), DMF (5 ml), and [1,1′-bis(diphenylphosphino)-ferrocen]palladium(II) chloride (50 mg) and the reaction stirred for 2 d at 80° C. under a 3 bar CO atmosphere. The reaction mixture was filtered and the filtrate concentrated in vacuum. The residue was partitioned between water and EtOAc and the organic layer was then separated, dried and concentrated in vacuum. The residue was purified by flash chromatography (DCM:MeOH 100:0 to 95:5 gradient) to give the title compound (400 mg). Rf=0.37 (95:5 DCM:MeOH).

reactant | 1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carboxylic acid [3-bromo-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-amide | 400 mg | BrC=1C=C(C=C(C1)C1=NN=NN1C)NC(=O)C1N(C(CC1)=O)C1CCN(CC1)CC1=CC(=C(C=C1)Cl)C | C26H29BrClN7O2
reactant | triethylamine | 140 μl | C(C)N(CC)CC | C6H15N
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | MeOH | 20 ml | CO | CH4O
catalyst | [1,1′-bis(diphenylphosphino)-ferrocen]palladium(II) chloride | 50 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-({1-[1-(4-Chloro-3-methyl-benzyl)-piperidin-4-yl]-5-oxo-pyrrolidine-2-carbonyl}-amino)-5-(1-methyl-1H-tetrazol-5-yl)-benzoic acid methyl ester | 400 mg | COC(C1=CC(=CC(=C1)C1=NN=NN1C)NC(=O)C1N(C(CC1)=O)C1CCN(CC1)CC1=CC(=C(C=C1)Cl)C)=O | C28H32ClN7O4
